US05061794
Preparation of 7β-[2-(2-aminothiazol-4-yl)-2-(4hydroxybenzyloxyimino) acetamido]-3-[5-(3,4-dihydroxyphenyl)-1,3, 4-oxadiazol-2-yl]thiomethyl-3-cephem-4carboxylic acid (syn-isomer)
The same operation as in EXAMPLE 1 was conducted by using 2.04 g (2 mmol) of benzhydryl 3-chloromethyl-7β-{2-[4-(2-methoxyethoxymethoxy)benzyloxyimino]-2-(2-tritylaminothiazol-4-yl) acetamido}-3-cephem-4-carboxylate (syn-isomer) and 773 mg (2 mmol) of 2-mercapto-5-[3,4-di(2-methoxyethoxymethoxy) phenyl]-1,3,4-oxadiazole, whereby 530 g (yield: 38.0%) of the above identified compound was obtained.

reactant | benzhydryl 3-chloromethyl-7β-{2-[4-(2-methoxyethoxymethoxy)benzyloxyimino]-2-(2-tritylaminothiazol-4-yl) acetamido}-3-cephem-4-carboxylate | 2 mmol, 2.04 g | ClCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(C(C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=NOCC2=CC=C(C=C2)OCOCCOC)=O)=O | C56H50ClN5O8S2
reactant | 2-mercapto-5-[3,4-di(2-methoxyethoxymethoxy) phenyl]-1,3,4-oxadiazole | 2 mmol, 773 mg | SC=1OC(=NN1)C1=CC(=C(C=C1)OCOCCOC)OCOCCOC | C16H22N2O7S
product | 7β-[2-(2-aminothiazol-4-yl)-2-(4hydroxybenzyloxyimino) acetamido]-3-[5-(3,4-dihydroxyphenyl)-1,3, 4-oxadiazol-2-yl]thiomethyl-3-cephem-4carboxylic acid | yield: 38.0% | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC=2OC(=NN2)C2=CC(=C(C=C2)O)O)C(=O)O)C1=O)=NOCC1=CC=C(C=C1)O | C28H23N7O9S3
